US09387200B2
a) 4-Hydroxy-3-methyl-7-pyrazin-2-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester
The title compound was synthesized in analogy Example 3 from 7-bromo-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester and 2-(tributylstannyl)pyrazine: MS (m/z) 345.2 (M+1).

reactant | 7-bromo-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C)O | C12H13BrN2O3S
reactant | 2-(tributylstannyl)pyrazine | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
product | 4-Hydroxy-3-methyl-7-pyrazin-2-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C1=NC=CN=C1)SN=C2C)O | C16H16N4O3S
